US05428037
To a suspension of 4'-methylbiphenyl-3-carboxylic acid (2.2 g) in a mixture of methylene chloride (20 ml) and dimethylformamide (0.5 ml) was added thionyl chloride (1.48 g). The mixture was refluxed until the suspension dissolved, after which the temperature was allowed to cool to room temperature. To this solution was added 1-(diphenylmethyl)piperazine (3.94 g) in methylene chloride dropwise, and the reaction mixture allowed to stand overnight. Sodium hydroxide (30 ml of 1N) and 50 ml of methylene chloride was added, the organic layer separated, washed with brine, dried over sodium sulfate, and solvent removed under reduced pressure. The residue was chromatographed on silica gel, eluting with 25% ethyl acetate in heptane, to yield 3.8 g of 1-diphenylmethyl-4-(4'-methylbiphenyl-3-carbonyl)piperazine. The dihydrochloride salt was prepared and recrystallized from ethanol, m.p. 226° C.

reactant | 4'-methylbiphenyl-3-carboxylic acid | 2.2 g | CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C14H12O2
reactant | thionyl chloride | 1.48 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(diphenylmethyl)piperazine | 3.94 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | Sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-diphenylmethyl-4-(4'-methylbiphenyl-3-carbonyl)piperazine | 3.8 g | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C31H30N2O
